US07411072B2
(E)-5-(8-Fluoro-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-1-(2-morpholin-4-yl-ethyl)-1,3-dihydro-benzoimidazol-2-one
Following procedures essentially as described in Example 219, beginning with (E)-5-bromomethylene-8-fluoro-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cycloheptene (192 mg, 0.63 mmol) and 1-(2-morpholinyl-ethyl)-5-(dihyroxyborolan-2-yl)-1,3-dihydro-benzoimidazol-2-one (219 mg, 0.75 mmol). Partition the reaction mixture between ethyl acetate (50 mL) and 1N aqueous hydrochloric acid solution (50 mL). Separate the layers and extract the aqueous layer with methylene chloride (2×50 mL). Combine the organic layers and extract with 1N aqueous hydrochloric acid solution (50 mL). Adjust the pH of the combined aqueous layers to 8.0 with 5N aqueous sodium hydroxide solution, and extract the product with ethyl acetate (3×50 mL). Purify the crude product by flash chromatography (25% ethanol/ethyl acetate) to provide 115 mg (39%) of purified product.

reactant | (E)-5-bromomethylene-8-fluoro-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cycloheptene | 0.63 mmol, 192 mg | Br\C=C/1\C2=C(OCC3=C1C=CC=N3)C=C(C=C2)F | C14H9BrFNO
reactant | 1-(2-morpholinyl-ethyl)-5-(dihyroxyborolan-2-yl)-1,3-dihydro-benzoimidazol-2-one | 0.75 mmol, 219 mg | N1(CCOCC1)CCN1C(NC2=C1C=CC(=C2)C2(B(CCC2)O)O)=O | C17H24BN3O4
product | (E)-5-(8-Fluoro-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-1-(2-morpholin-4-yl-ethyl)-1,3-dihydro-benzoimidazol-2-one | 115 mg, 39% | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC4=C(N(C(N4)=O)CCN4CCOCC4)C=C2)C=CC=N3)C1 | C27H25FN4O3
